US09340544B2
(4-Bromo-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine
Was prepared according to Example 8 from (4-bromo-phenyl)-(2-chloro-9-methyl-9H-purin-6-yl)-amine and hydrazine monohydrate.

reactant | (4-bromo-phenyl)-(2-chloro-9-methyl-9H-purin-6-yl)-amine | BrC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)Cl)C | C12H9BrClN5
reactant | hydrazine monohydrate | O.NN
product | (4-Bromo-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | BrC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12BrN7
